US03972926
Using the procedure of Example 5 benzyltriphenylphosphonium chloride and 3-nitrobenzaldehyde are reacted to give 3-nitrostilbene which is selected to 3-aminostilbene. The 3-aminostilbene is sulfonylated to give 3-(2'-phenethyl)trifluoromethanesulfonanilide, m.p. 64.5°-66° C.

reactant | 3-nitrobenzaldehyde | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
catalyst | benzyltriphenylphosphonium chloride | [Cl-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-nitrostilbene | [N+](=O)([O-])C=1C=C(C=CC1)C=CC1=CC=CC=C1 | C14H11NO2
